US07667041B2
Synthesis of (R)-2-(1-fluoromethyl-2-phenylethyl)isoindol-1,3-dione
(R)-2-(1-hydroxymethyl-2-phenylethyl)isoindole-1,3-dione (1.20 g) was added to a methylene chloride (20 mL) solution of DAST (825 mg) at −78° C. and the reaction solution was agitated at room temperature. DAST (500 mg) was added to the reaction solution after 2 hours, and the reaction solution was agitated at 50° C. for 3 hours. Saturated sodium bicarbonate solution was added for reaction solution to the reaction solution after allowing the reaction solution to be cooled to room temperature, and the organic layer was partitioned. The organic layer was concentrated under reduced pressure after dried over anhydrous magnesium sulfate. The residue was purified by silica gel column chromatography (heptane-ethyl acetate system), and 52 mg of the title compound was obtained.

reactant | (R)-2-(1-hydroxymethyl-2-phenylethyl)isoindole-1,3-dione | 1.20 g | OC[C@@H](CC1=CC=CC=C1)N1C(C2=CC=CC=C2C1=O)=O | C17H15NO3
reactant | DAST | 825 mg | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | DAST | 500 mg | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(1-fluoromethyl-2-phenylethyl)isoindol-1,3-dione | 52 mg | FC[C@@H](CC1=CC=CC=C1)N1C(C2=CC=CC=C2C1=O)=O | C17H14FNO2
